US05773428
(3R,9S)-Ethyl-3-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-ylcarbamoyl)-6-pyridin-4-yl-hexanoate hydrochloride salt was stirred in CH2Cl2 /saturated Na2 CO3 for 10 minutes. The organic layer was separated, dried, and evaporated. The crude product was crystallized from CH2Cl2 /hexanes to give (3R,9S)-ethyl-3-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-ylcarbamoyl)-6-pyridin-4-yl-hexanoate, melting point 203°-205° C.

reactant | (3R,9S)-Ethyl-3-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-ylcarbamoyl)-6-pyridin-4-yl-hexanoate hydrochloride salt | Cl.C(C)OC(C[C@@H](CCCC1=CC=NC=C1)C(N[C@@H]1C(NCCOCCN2C3=CC=CC=C3C(C1)=C2)=O)=O)=O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3R,9S)-ethyl-3-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-ylcarbamoyl)-6-pyridin-4-yl-hexanoate | C(C)OC(C[C@@H](CCCC1=CC=NC=C1)C(N[C@@H]1C(NCCOCCN2C3=CC=CC=C3C(C1)=C2)=O)=O)=O | C29H36N4O5
